US04113871
By the reaction of ethyl β-{4-[2-(N-methylamino)-ethyl]-phenyl}-propionate hydrochloride (m.p. 162°-164° C.) with 5-chloro-2-methoxybenzoyl chloride, there is obtained β-{4-[2-(N-methyl-5-chloro-2-methoxybenzamido)-ethyl]-phenyl}-propionic acid; m.p. 152°-153° C., after recrystallization from toluene.

reactant | ethyl β-{4-[2-(N-methylamino)-ethyl]-phenyl}-propionate hydrochloride | Cl.CNCCC1=CC=C(C=C1)CCC(=O)OCC
reactant | 5-chloro-2-methoxybenzoyl chloride | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
product | β-{4-[2-(N-methyl-5-chloro-2-methoxybenzamido)-ethyl]-phenyl}-propionic acid | CN(C(C1=C(C=CC(=C1)Cl)OC)=O)CCC1=CC=C(C=C1)CCC(=O)O | C20H22ClNO4
